US09233956B2
Step B: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-cyclohexyl-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to Intermediate 6 using N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (0.45 g, 1.019 mmol) and cyclohexanecarbothioamide (0.18 mg, 1.23 mmol) the title compound of Step B was obtained (0.38 g, 66% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.92 (s, 1H), 8.54 (d, J=5.3 Hz, 1H), 7.61-7.75 (m, 1H), 7.39-7.50 (m, 2H), 7.32 (t, J=7.9 Hz, 1H), 7.24 (t, J=9.1 Hz, 2H), 6.86 (d, J=5.3 Hz, 1H), 2.96-3.12 (m, 1H), 2.09 (d, J=10.6 Hz, 2H), 1.78 (dd, J=9.7, 3.2 Hz, 2H), 1.68 (d, J=12.5 Hz, 1H), 1.47-1.61 (m, 2H), 1.33-1.45 (m, 2H), 1.21-1.32 (m, 1H). m/z (ES+): 566 [M+H]+.

reactant | N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 1.019 mmol, 0.45 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C18H11ClF3N3O3S
reactant | cyclohexanecarbothioamide | 1.23 mmol, 0.18 mg | C1(CCCCC1)C(N)=S | C7H13NS
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-cyclohexyl-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 66% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCCCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C25H20ClF3N4O2S2
